US08039474B2
b) (±)-(3-Dibenzylcarbamoyl-1,2,3,4-tetrahydro-carbazol-9-yl)-acetic acid
A stirred solution of crude ethyl (±)-(3-dibenzylcarbamoyl-1,2,3,4-tetrahydro-carbazol-9-yl)-acetate (0.1 mmol) in THF (1 ml) is treated with 0.2 N aqueous NaOH (0.5 ml, 0.1 mmol) added at rt for 15 min. Then, the reaction mixture is extracted twice with diethyl ether (2 ml), acidified to pH 1 by addition of 1M HCl and extracted with CH2Cl2. The combined organic layers are dried (Na2SO4), filtered and evaporated. The resulting solid is recrystallized from diethyl ether to yield title compound as a pale yellow solid. tR (LC-2) 2.74 min; MS (positive ion) m/z 453.26 [M+H]+ (calcd 452.55 for C29H28N2O3).

reactant | ethyl (±)-(3-dibenzylcarbamoyl-1,2,3,4-tetrahydro-carbazol-9-yl)-acetate | 0.1 mmol | C(C1=CC=CC=C1)N(C(=O)C1CCC=2N(C3=CC=CC=C3C2C1)CC(=O)OCC)CC1=CC=CC=C1 | C31H32N2O3
reactant | NaOH | 0.1 mmol, 0.2 N, 0.5 ml | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (±)-(3-Dibenzylcarbamoyl-1,2,3,4-tetrahydro-carbazol-9-yl)-acetic acid | C(C1=CC=CC=C1)N(C(=O)C1CCC=2N(C3=CC=CC=C3C2C1)CC(=O)O)CC1=CC=CC=C1 | C29H28N2O3
